US08183271B2
Diallyl 2-(4-cyanobenzyl)-2-[2-(4-methoxycarbonylphenyl)ethyl]malonate
7.13 g (178.36 mmol) of sodium hydride are added in portions to a solution of 48.53 g (162.14 mmol) of diallyl 2-(4-cyanobenzyl)malonate in 180 ml of DMF at 0° C. The reaction solution is then allowed to reach room temperature and is stirred for 30 min. The reaction solution is then cooled to 0° C. again and, after addition of 55 g (194.6 mmol) of methyl 4-(2-bromoethyl)benzoate [CAS No. 136333-97-6] in 195 ml of DMF, stirred at this temperature for 30 min. The mixture is then stirred at room temperature overnight. Water is added dropwise to the reaction mixture, which is then extracted three times with ethyl acetate, and the combined organic phases are washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solvent is concentrated to dryness in vacuo. The resulting crude product is purified by flash chromatography on silica gel (mobile phase: petroleum ether/ethyl acetate 10:1). 33.4 g (72.37 mol, 44% of theory) of a colorless solid are obtained.

reactant | sodium hydride | 178.36 mmol, 7.13 g | [H-].[Na+]
reactant | diallyl 2-(4-cyanobenzyl)malonate | 162.14 mmol, 48.53 g | C(#N)C1=CC=C(CC(C(=O)OCC=C)C(=O)OCC=C)C=C1 | C17H17NO4
reactant | methyl 4-(2-bromoethyl)benzoate | 194.6 mmol, 55 g | BrCCC1=CC=C(C(=O)OC)C=C1 | C10H11BrO2
reactant | Water | O | H2O
solvent | DMF | 180 ml | CN(C)C=O | C3H7NO
solvent | DMF | 195 ml | CN(C)C=O | C3H7NO
product | Diallyl 2-(4-cyanobenzyl)-2-[2-(4-methoxycarbonylphenyl)ethyl]malonate | C(#N)C1=CC=C(CC(C(=O)OCC=C)(C(=O)OCC=C)CCC2=CC=C(C=C2)C(=O)OC)C=C1 | C27H27NO6
